US05534481
Preparation of 4-(2-chloroethoxy-2-methyl-2H-indazole-3-sulfonamide (Intermediate No. 229) (Mitsunobu reaction)
3.8 g (22 mmol) of diethylazo dicarboxylate was added to a solution containing 5 g (22 mmol) of 4-hydroxy-2-methyl-2H-indazole-3-sulfonamide, 1.8 g (22 mmol) of 2-chloroethanol and 5.8 g (22 mmol) of triphenylphosphine in 50 ml of THF, and the mixture was stirred at room temperature for 20 hours. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water, then concentrated and purified by column chromatography (hexane/ethyl acetate=2/1) to obtain 1.66 g (yield: 26%) of the desired product. Melting point: 177°-179° C.

reactant | diethylazo dicarboxylate | 22 mmol, 3.8 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-hydroxy-2-methyl-2H-indazole-3-sulfonamide | 22 mmol, 5 g | OC=1C2=C(N(N=C2C=CC1)C)S(=O)(=O)N | C8H9N3O3S
reactant | 2-chloroethanol | 22 mmol, 1.8 g | ClCCO | C2H5ClO
reactant | triphenylphosphine | 22 mmol, 5.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-chloroethoxy-2-methyl-2H-indazole-3-sulfonamide | 1.66 g, yield: 26% | ClCCOC=1C2=C(N(N=C2C=CC1)C)S(=O)(=O)N | C10H12ClN3O3S
